US05710322
A solution of 12.0 g (51.7 mmol) of (S)-3,3-dimethyl-2-(1-phenylethylimino)-butyramide in 200 ml of methanol was hydrogenated in a low pressure hydrogenation apparatus in the presence of 2.0 g of 5 percent Pd/C at 40° C. and normal pressure for 6.5 hours. After cooling the catalyst was filtered off and the filtrate was evaporated to dryness: 6.7 g (99.5%) of white crystals containing 90.8% (S)-tert-leucinamide, 97.0% e.e. Recrystallization from 40 ml of cyclohexane yielded 5.3 g (78.5%) of (S)-tert-leucinamide as white crystals, m.p. 104°-105° C., [α]=-23.2 (c=1, CHCl3), 96.9% e.e.

reactant | (S)-3,3-dimethyl-2-(1-phenylethylimino)-butyramide | 51.7 mmol, 12.0 g | CC(C(C(=O)N)=N[C@@H](C)C1=CC=CC=C1)(C)C | C14H20N2O
solvent | methanol | 200 ml | CO | CH4O
catalyst | Pd/C | 2.0 g | [Pd] | Pd
product | (S)-tert-leucinamide | 5.3 g, 78.5% | N[C@@H](C(C)(C)C)C(=O)N | C6H14N2O
